US04349552
To the above solution of 1-adamantylmethyl isocyanate was added a solution of 5-fluorouracil (2.60 g) in N,N-dimethylacetamide (20 ml) at 80° C. and stirred for further 3 hours at the same temperature. The resultant mixture was diluted with ethyl acetate (200 ml), washed with water (each 30 ml., 3 times), dried over magnesium sulfate, treated with activated charcoal, filtered and evaporated in vacuo. The residue was recrystallized from diethyl ether to give 1-[N-(1-adamantylmethyl)carbamoyl]-5-fluorouracil (1.85 g), as colorless crystalline powder.

reactant | 1-adamantylmethyl isocyanate | C12(CC3CC(CC(C1)C3)C2)CN=C=O | C12H17NO
reactant | 5-fluorouracil | 2.60 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-[N-(1-adamantylmethyl)carbamoyl]-5-fluorouracil | 1.85 g | C12(CC3CC(CC(C1)C3)C2)CNC(=O)N2C(=O)NC(=O)C(=C2)F | C16H20FN3O3
